US07122704B2
Preparation of Perfluoro2,3-epoxypentane
The distillate was subjected to flash chromatography on silica gel using octane as an eluant. The column effluent containing primarily octane and the mixture of perfluoro-2-bromo-3-pentanone and perfluoro-3-bromo-2-pentanone was then subjected to two vacuum distillations at a pressure of 56 and 100 torr, respectively, to separate the bromoperfluoroketones from the bulk of the octane. The low-boiling fractions from the vacuum distillations were then re-distilled at atmospheric pressure. The fractions collected at a head temperature of 71.2–72.8° C. were combined. The product was a mixture of perfluoro-2-bromo-3-pentanone and perfluoro-3-bromo-2-pentanone in molar ratio of 1.0 to 1.12 with overall purity of >98 GC area %.

reactant | octane | CCCCCCCC | C8H18
reactant | perfluoro-2-bromo-3-pentanone | FC(C(C(C(C(F)(F)F)(F)F)=O)(Br)F)(F)F | C5BrF9O
reactant | perfluoro-3-bromo-2-pentanone | FC(C(C(C(C(F)(F)F)(F)F)(Br)F)=O)(F)F | C5BrF9O
product | Perfluoro2,3-epoxypentane | FC(C1(C(C(C(F)(F)F)(F)F)(O1)F)F)(F)F | C5F10O
